US05883114
12-(2-carbamoylethyl)-6,7,12,13-tetrahydro-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole is obtained in the form of dark yellow crystals which decompose from 310° C. The 12-(2-carboxyethyl)-6,7,12,13-tetrahydro-5,7-dioxoindolo[2,3-a]furano[3,4-c]carbazole used as starting material is prepared as follows: 980 mg (2.39 mmol) 12-(2-Carbamoylethyl)-6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo-[3,4-c]carbazole are heated under reflux for 1.5 hours in 200 ml 15% methanolic potassium hydroxide solution. After cooling, the reaction mixture is filtered, the filtrate is acidified with 2N hydrochloric acid and the product which precipitates out is filtered off and washed with water. 12-(2-Carboxyethyl)-6,7,12,13-tetrahydro-5,7-dioxo-indolo[2,3-a]furano[3,4-c]carbazole is obtained as a brownish amorphous powder. The 12-(2-carbamoylethyl)-6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]-carbazole used as starting material is prepared as follows: 500 mg (1.47 mmol) 6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole in 50 ml acetonitrile are stirred for 4 days at 20° C. with 1.05 g (14.8 mmol) acrylamide and 0.1 ml DBU. The suspension is evaporated, stirred with 30 ml dichloromethane/methanol (95:5 v/v) and the undissolved crystals are filtered off. 12-(2-carbamoylethyl)-6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo-[3,4-c]carbazole is obtained in the form of yellow crystals. The 6,7,12,13-tetrahydro-6-methyl-5,1-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole used as starting material is prepared as follows: 1 g (2.93 mmol) 3,4-bis-(indol-3-yl)-N-methyl-maleic acid imide is boiled under reflux for 1 hour with 800 mg (3.52 mmol) DDQ and 560 mg (2.94 mmol) p-toluenesulphonic acid hydrate in 200 ml toluene. Two thirds of the solvent are distilled off and the precipitate is filtered off and stirred with 100 ml 0.1N sodium hydroxide solution. It is filtered, the precipitate is washed with water, then suspended in ethanol and again filtered off. 6,7,12,13-Tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole is obtained in the form of a yellow amorphous powder; m.p. >350° C. The 3,4-bis-(indol-3-yl)-N-methylmaleic acid imide used as starting material is prepared in the manner described in the literature (see Tetrahedron, 1988, 44, 2887).

reactant | 6,7,12,13-tetrahydro-6-methyl-5,1-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | CN1C(C=2C3=C(C=4NC5=CC=CC=C5C4C2C1)NC=1C(CC=CC13)=O)=O | C21H15N3O2
reactant | DDQ | 3.52 mmol, 800 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | p-toluenesulphonic acid hydrate | 2.94 mmol, 560 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7,12,13-Tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | CN1C(C=2C3=C(C=4NC5=CC=CC=C5C4C2C1=O)NC=1C=CC=CC13)=O | C21H13N3O2
